US04187311
To a solution of 17.1 g of 3-phenoxypyridine [J. Amer. Chem. Soc 59, 297 (1937)] in 100 ml of acetonitrile is added 16.7 g of ethyl bromoacetate and the solution is refluxed for 8 hours. The resulting mixture is concentrated at reduced pressure and the crystalline solid is isolated by filtration to yield 1-(2-ethoxy-2-oxoethyl)-3-phenoxypyridinium bromide; mp 125°-126° C. after recrystallization from acetonitrile-diethyl ether.

reactant | 3-phenoxypyridine | 17.1 g | O(C1=CC=CC=C1)C=1C=NC=CC1 | C11H9NO
reactant | ethyl bromoacetate | 16.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(2-ethoxy-2-oxoethyl)-3-phenoxypyridinium bromide | [Br-].C(C)OC(C[N+]1=CC(=CC=C1)OC1=CC=CC=C1)=O | InChI=1S/C15H16NO3.BrH/c1-2-18-15(17)12-16-10-6-9-14(11-16)19-13-7-4-3-5-8-13;/h3-11H,2,12H2,1H3;1H/q+1;/p-1
